US06218389B1
S-(4-methoxybenzyl)-D-penicillamine
The N-t-butoxycarbonyl-S-(4-methoxybenzyl)-D-penicillamine (5.0 g, 13.5 mmol) is dissolved in 40 mL of methylene chloride and cooled to 0° C. in an ice bath. Trifluoroacetic acid (18.5 g, 162 mmol) is added next, and the resulting mixture is stirred at 0° C. for 1 hour. The reaction mixture is warmed to room temperature and stirred until the starting material disappeared by TLC and mass spec (3 h.). The trifluoroacetic acid and methylene chloride are evaporated under reduced pressure to give the desired product.

reactant | N-t-butoxycarbonyl-S-(4-methoxybenzyl)-D-penicillamine | 13.5 mmol, 5.0 g | C(C)(C)(C)OC(=O)N[C@H](C(C)(C)SCC1=CC=C(C=C1)OC)C(=O)O | C18H27NO5S
reactant | Trifluoroacetic acid | 162 mmol, 18.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | S-(4-methoxybenzyl)-D-penicillamine | COC1=CC=C(CSC([C@@H](N)C(=O)O)(C)C)C=C1 | C13H19NO3S
